US08222246B2
c) 6-[3-Butyl-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
To a suspension of sodium hydride (170 mg, 4.24 mmol) in THF (7 mL) at 0° C. was added a solution of [3-butyl-5([E]-styryl)-isoxazol-4-yl]-methanol (993 mg, 3.86 mmol) in THF (17 mL) and the mixture was stirred for 30 min at room temperature. The reaction mixture was cooled to 5° C. and a solution of methyl 6-bromonicotinate (1.0 g, 4.6 mmol) in THF (17 mL) was added dropwise. The mixture was stirred at room temperature for 2 days, poured over ice and stirred for 5 min. The mixture was extracted twice with ethyl acetate, washed with brine, dried over sodium sulfate and concentrated to a yellow oily solid. The crude material was purified by flash chromatography (silica gel, heptane:ethyl acetate 1:0 to 3:2) to afford the title compound (1.17 g, 77%) as an orange semisolid. MS: m/e=393.2 [M+H]+.

reactant | sodium hydride | 4.24 mmol, 170 mg | [H-].[Na+]
reactant | [3-butyl-5([E]-styryl)-isoxazol-4-yl]-methanol | 3.86 mmol, 993 mg | C(CCC)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C16H19NO2
reactant | methyl 6-bromonicotinate | 4.6 mmol, 1.0 g | BrC1=NC=C(C(=O)OC)C=C1 | C7H6BrNO2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 6-[3-Butyl-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 1.17 g, 77% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1\C=C\C1=CC=CC=C1)CCCC)=O | C23H24N2O4
